US07307094B2
N-(9-Methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(4-methoxyphenyl)benzoxazole-4-carboxamide was prepared from 2-(4-methoxyphenyl)benzoxazole-4-carboxylic acid and 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride using the method outlined in Step C of Example 14. This compound was obtained in 60% yield as a white solid: mp 103-105° C.; 1H NMR (500 MHz, CDCl3) δ 9.07 (m, 1H), 8.19 (m, 3H), 7.66 (dd, J=8.0, 1.1 Hz, 1H), 7.41 (t, J=7.9 Hz, 1H), 7.07 (m, 2H), 4.60 (m, 1H), 3.92 (s, 3H), 3.11 (m, 2H), 2.66 (m, 2H), 2.54 (s, 3H), 2.13 (m, 1H), 2.03 (m, 2H), 1.53 (m, 3H), 1.17 (m, 2H); MS (ESI) m/z 406 [M+H]+

reactant | 2-(4-methoxyphenyl)benzoxazole-4-carboxylic acid | COC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C15H11NO4
reactant | 3-amino-9-methyl-9-azabicyclo[3.3.1]nonane dihydrochloride | Cl.Cl.NC1CC2CCCC(C1)N2C
product | N-(9-Methyl-9-azabicyclo[3.3.1]non-3-yl)-2-(4-methoxyphenyl)benzoxazole-4-carboxamide | 60% yield | CN1C2CC(CC1CCC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)OC | C24H27N3O3
